US08222416B2
A mixture of 1-(tert-butyl-dimethyl-silanyl)-5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridine (2.5 g, 8.68 mmol) and a solution of tetrabutylammonium fluoride in tetrahydrofuran (1 M, 9.11 mL, 9.11 mmol) was stirred for 2 h at room temperature. The mixture was poured into brine (15 mL), extracted with ethyl acetate (2×50 mL), washed with a saturated aqueous ammonium chloride solution (3×20 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (Qingdao silica gel, 300 mesh, 20% ethyl acetate/hexanes) afforded 5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridine (600 mg, 48%) as a white solid which was used in the next step without purification: LC/MS m/e calcd for C9H10N2O [M+H]+ 179.26, observed 179.2.

reactant | 1-(tert-butyl-dimethyl-silanyl)-5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridine | 8.68 mmol, 2.5 g | C(C)(C)(C)[Si](N1C=CC=2C1=NC=C(C2)SCC)(C)C | C15H24N2SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 9.11 mmol, 1 M, 9.11 mL | O1CCCC1 | C4H8O
solvent | brine | 15 mL | [Cl-].[Na+].O
product | 5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridine | 600 mg, 48% | C(C)SC=1C=C2C(=NC1)NC=C2 | C9H10N2S
